US04120690
Preparation of 2-methylamino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole
A solution containing 32.4 g (0.10 mole) of 4-bromo-3'-trifluoromethylacetoacetanilide and 11.3 g (0.13 mole) of N-methylthiourea in 250 ml of ethanol was refluxed for four hours. The reaction mixture was poured into 700 ml of water and ethanol was added. A small quantity of insoluble material was removed by filtration and the filtrate was made strongly alkaline by the addition of ammonium hydroxide. The solution was cooled and an additional 400 ml of water was added. The precipitated solid was collected and dried in an oven. There was obtained 25.5 g (81%) of product, m.p. 153°-55°, N.M.R. (dimethyl-d6 sulfoxide) ∂ 2.8-2.9 (CH3, doublet), 3.5 (CH2), 6.3 (hetero-aromatic), 7.3-8.1 (aromatic, NH), 10.4 (HNC=O).

reactant | 4-bromo-3'-trifluoromethylacetoacetanilide | 0.10 mole, 32.4 g | BrCC(CC(=O)NC1=CC(=CC=C1)C(F)(F)F)=O | C11H9BrF3NO2
reactant | N-methylthiourea | 0.13 mole, 11.3 g | CNC(=S)N | C2H6N2S
reactant | water | 700 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-methylamino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 25.5 g, 81% | CNC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O | C13H12F3N3OS
